US06329525B1
To a solution of 1.01 g of N,N-dihexyl-1,2-dihydro-2-oxoquinoline-3-carboxamide in 13 ml of N,N-dimethylformamide was added 136 mg of 60% sodium hydride/oil, followed by stirring at room temperature for an hour. To the reaction solution was added 434 mg of 3-picolyl chloride, followed by stirring at room temperature for 4 hours. The reaction mixture was poured into water and extracted with ethyl acetate, and the extract was washed with water, a saturated aqueous sodium bicarbonate solution and a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. After removal of the drying agent by filtration, the filtrate was concentrated under reduced pressure. The residue was purified by chromatography (silica gel; Wakogel C200 (manufactured by Wako Pure Chemicals), developing solvent; hexane−ethyl acetate=7:13−1:19) and recrystallized from ethyl acetate to give 0.47 g of N,N-dihexyl-1-(3-picolyl)-1,2-dihydro-2-oxoquinoline-3-carboxamide.

reactant | N,N-dihexyl-1,2-dihydro-2-oxoquinoline-3-carboxamide | 1.01 g | C(CCCCC)N(C(=O)C=1C(NC2=CC=CC=C2C1)=O)CCCCCC | C22H32N2O2
reactant | sodium hydride | 136 mg | [H-].[Na+]
reactant | 3-picolyl chloride | 434 mg | N1=CC(=CC=C1)CCl | C6H6ClN
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 13 ml | CN(C=O)C | C3H7NO
product | N,N-dihexyl-1-(3-picolyl)-1,2-dihydro-2-oxoquinoline-3-carboxamide | 0.47 g | C(CCCCC)N(C(=O)C=1C(N(C2=CC=CC=C2C1)CC=1C=NC=CC1)=O)CCCCCC | C28H37N3O2
